US08022062B2
Under a nitrogen atmosphere, add 4-cycloheptyloxy-benzylamine (451 mg, 2.06 mmol), 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (500 mg, 1.17 mmol), palladium(II) acetate (26 mg, 0.117 mmol), BINAP (110 mg, 0.176 mmol), and cesium carbonate (1.15 g, 3.52 mmol) to toluene (20 mL). Heat the mixture at 90° C. for 12 h. Cool the mixture to room temperature and dilute with EtOAc (25 mL). Filter the solids through cellulose (20 g) and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel (45 g RediSep column) eluting with hexane/EtOAc (1:0 to 4:1 gradient over 1 h; 80 mL/min) to provide 7-chloro-6-(4-cycloheptyloxy-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil (384 mg, 61%). MS (APCI) m/z: 495 (M+H)+.

reactant | 4-cycloheptyloxy-benzylamine | 2.06 mmol, 451 mg | C1(CCCCCC1)OC1=CC=C(CN)C=C1 | C14H21NO
reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.17 mmol, 500 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | BINAP | 0.176 mmol, 110 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 3.52 mmol, 1.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 0.117 mmol, 26 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-6-(4-cycloheptyloxy-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 384 mg, 61% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)OC1CCCCCC1 | C26H30ClF3N2O2
